US07691877B2
1-benzyl-4-dibenzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5,c]pyridine-7-carboxylic acid cyclopropylmethyl-amide
1-benzyl-4-dibenzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5,c]pyridine-7-carboxylic acid methyl ester (50 mg, 0.1 mmol) was suspended in 2 mL of (aminomehtyl) cyclopropane and the mixture was stirred at 120° C. overnight. The excess of amine was removed in vacuo and the gum was partitioned in water (20 mL) and ethyl acetate (50 mL), the organic layer was isolated, dried over MgSO4 and the solvent was removed in vacuo. The residue was purified by column chromatography on silica gel using 5% of methanol in dichloromethane to give 10 mg of the title compound as a yellow gum.

reactant | 1-benzyl-4-dibenzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5,c]pyridine-7-carboxylic acid methyl ester | 0.1 mmol, 50 mg | COC(=O)C=1C2=C(C(=NC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)NC(N2CC2=CC=CC=C2)=O | C29H26N4O3
reactant | (aminomehtyl) cyclopropane | 2 mL | NCC1CC1 | C4H9N
product | 1-benzyl-4-dibenzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5,c]pyridine-7-carboxylic acid cyclopropylmethyl-amide | 10 mg | C1(CC1)CNC(=O)C=1C2=C(C(=NC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)NC(N2CC2=CC=CC=C2)=O | C32H31N5O2
